US09163029B2
Diethyl but-2-ynedioate (1.6 equivalents) was added to a stirred solution of crude tert-butyl 2-[2-(4-methoxyphenyl)-2-oxoethyl]hydrazinecarboxylate (2 g) in ethanol at 0° C. The reaction was monitored by LCMS. Upon completion, the reaction mixture was concentrated in vacuo to give crude diethyl 2-{2-(tert-butoxycarbonyl)-1-[2-(4-methoxyphenyl)-2-oxoethyl]hydrazinyl}but-2-enedioate (1.3 g). The material was carried through without purification. ESI-MI m/z [M+H]+ 451.

reactant | Diethyl but-2-ynedioate | 1.6 equivalents | C(C#CC(=O)OCC)(=O)OCC | C8H10O4
reactant | tert-butyl 2-[2-(4-methoxyphenyl)-2-oxoethyl]hydrazinecarboxylate | 2 g | COC1=CC=C(C=C1)C(CNNC(=O)OC(C)(C)C)=O | C14H20N2O4
solvent | ethanol | C(C)O | C2H6O
product | diethyl 2-{2-(tert-butoxycarbonyl)-1-[2-(4-methoxyphenyl)-2-oxoethyl]hydrazinyl}but-2-enedioate | 1.3 g | C(C)(C)(C)OC(=O)NN(CC(=O)C1=CC=C(C=C1)OC)C(C(=O)OCC)=CC(=O)OCC | C22H30N2O8
